US05300518
α-(3-Pyridyl)-2,5-dimethoxy-4,6-dimethylbenzyl alcohol
Then 48 ml of a 1.6M solution of n-butyllithium in hexane was added thereto. After cooling to -60° C., 7.4 ml of 3-bromopyridine was added thereto in portions. Then the mixture was stirred at -60° C. for 30 minutes and a solution of 9.9 g of 2,4-dimethyl-3,6-dimethoxybenzaldehyde in 100 ml of dry ether and 40 ml of dry tetrahydrofuran was added dropwise thereto. After the completion of the addition, the cooling bath was taken off. When the temperature of the reaction mixture reached -10° C., water was added thereto and the mixture was extracted with ethyl acetate. After washing with a saline solution and drying, the solvent was distilled off. Then the residue was purified by silica gel column chromatography (ethyl acetate: hexane=1:5-5:1). Thus 14.0 g of the title compound was obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromopyridine | 7.4 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2,4-dimethyl-3,6-dimethoxybenzaldehyde | 9.9 g | CC1=C(C=O)C(=CC(=C1OC)C)OC | C11H14O3
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | α-(3-Pyridyl)-2,5-dimethoxy-4,6-dimethylbenzyl alcohol | 14.0 g | N1=CC(=CC=C1)C(C1=C(C=C(C(=C1C)OC)C)OC)O | C16H19NO3
